Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:6],1.57784499118
[O:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7]>>[H:7].[O:1][O:2][C:3]([H:4])[C:5]#[C:6],5.06992902896
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],1.84225466789
[H:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-1.10743014212
[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[H:10].[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]#[C:8][H:9],4.04369760498
[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:3].[O:1]=[C:2]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10],2.82090242676
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],4.94740325207
[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-0.836392502039
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1],8.29905178
[H:1][C:2]#[C:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.0858027795
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C@:6]1([H:7])[C:8]([H:9])[H:10],0.8880896786
[H:1][C:2]([H:3])[C@:4]1([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])=[C:12]1[H:13]>>[H:1][C:2]=[C:7]([O:6][C:4]([H:5])=[C:12]([H:3])[H:13])[C:8]([H:9])([H:10])[H:11],0.70684146678
[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],3.83285594374
[H:13].[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.08714532632
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10].[O:11][H:12],2.57136607546
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:3][C:7](=[C:4]([H:5])[H:6])[H:8],1.84786544873
[H:13].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.06319271762
[H:1][C:2]1[O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2](=[O:3])[C:13]([C:10]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])([H:11])[H:12])([H:14])[H:15],0.3521607913400001
[O:1]=[C:2]([H:3])[C:4]([C:5][O:6][H:7])=[C:8]([H:9])[H:10]>>[C:4](#[C:5][O:6][H:7])[C:8]([H:9])[H:10].[O:1]=[C:2][H:3],2.25776439471
[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1]/[C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:14]([H:15])([H:16])[H:17],1.7655807920099995
[H:15].[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.57657349509
[H:1][C:2]([C:3][C:10]([H:11])([H:12])[O:13][H:14])([H:8])[H:9].[H:4][C:5]#[C:6][H:7]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-2.19895820186
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],-5.6812520773
[C:7]([H:8])([H:9])=[C:10][O:11][H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-0.795734805359
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8].[O:9][H:10]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-5.98286173726
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])[O:8][C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[O:8][C:9][H:10],4.01022953757
[C:1]#[C:2][H:3].[C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([H:3])[C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.23445043598
[H:11].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.8204448734400005
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3],4.70185849708
